US04948804
1-benzoyl 5-n-pentyloxy pyrrolidin-2-one
15.56 cm3 of a 1.5M solution of n-butyllithium in hexane is added at -60° C. to a solution of 4 g of 5-(1-pentyloxy) pyrrolidin-2-one in 80 cm3 of tetrahydrofuran. Agitation is carried out for 15 minutes at -60° C. and then under these conditions a solution of 3.28 g of benzoyl chloride in 20 cm3 of tetrahydrofuran is added. After allowing the temperature to return to ambient, the solvent is evaporated under reduced pressure. The residue is chromatographed on silica (eluent: ethyl acetate-n-hexane 1-3) and 4 g of sought product is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-(1-pentyloxy) pyrrolidin-2-one | 4 g | C(CCCC)OC1CCC(N1)=O | C9H17NO2
reactant | benzoyl chloride | 3.28 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-n-pentyloxy pyrrolidin-2-one | 4 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OCCCCC)=O | C16H21NO3
